US07179830B2
a) N-(3-Amino-2,5-dimethyl-4-thienyl)-N′-(2,6-dichlorophenyl)thiourea
A mixture of 0.5 g of 3,4-diamino-2,5-dimethylthiophene dihydrochloride, 30 ml of anhydrous THF and 0.49 g of triethylamine was stirred at room temperature for 30 minutes and then admixed with 0.569 g of 2,6-dichlorophenyl isothiocyanate. After the mixture had been heated to 40° C. for 30 minutes, it was stirred at room temperature for approx. 18 hours, the solvent was distilled off, the residue admixed with water and the precipitate filtered off and purified by column chromatography on silica gel using a mixture consisting of equal parts by volume of toluene and ethyl acetate. After the solvent had been distilled off, a foamy, amorphous product of m.p. 143–148° C. was obtained which, after melting, solidified again with a new m.p. of >300° C.

reactant | 3,4-diamino-2,5-dimethylthiophene dihydrochloride | 0.5 g | Cl.Cl.NC1=C(SC(=C1N)C)C
reactant | THF | 30 ml | C1CCOC1 | C4H8O
reactant | 2,6-dichlorophenyl isothiocyanate | 0.569 g | ClC1=C(C(=CC=C1)Cl)N=C=S | C7H3Cl2NS
solvent | triethylamine | 0.49 g | C(C)N(CC)CC | C6H15N
product | N-(3-Amino-2,5-dimethyl-4-thienyl)-N′-(2,6-dichlorophenyl)thiourea | NC1=C(SC(=C1NC(=S)NC1=C(C=CC=C1Cl)Cl)C)C | C13H13Cl2N3S2
